US06875765B2
Step 3: Methyl 2-(5-quinolyl)propanoate
A solution of tris(dibenzylideneacetone)-dipalladium (65 mg, 0.14 mmol), 1,1′-bis(diphenylphosphino)ferrocene(155 mg, 0.28 mmol) and lithium acetate(2.8 g, 27.6 mmol) in THF (50 mL) was stirred at room temperature for 5 minutes. To this mixture was added 5-quinolyl trifluoromethanesulfonate and [(E)-1-methoxy-1-propenyl]oxy(trimethyl)silane. The resulting mixture was heated at reflux for 24 hours and then allowed to cool to room temperature. The mixture was filtered, the residue was washed with THF(50 mL) and the solvent was removed under reduced pressure. Following a short silica column and aqueous workup, methyl 2-(5-quinolyl)propanoate was purified by HPLC yield 250 mg, 17%. HPLC (10% to 90% acetonitrile in 0.1N aqueous ammonium acetate over 10 min at 2 mL/min using a Waters Symmetry C18, 150×4.6 mm column) 6.89 min.

reactant | lithium acetate | 27.6 mmol, 2.8 g | C(C)(=O)[O-].[Li+]
reactant | 5-quinolyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C2C=CC=NC2=CC=C1)(F)F | C10H6F3NO3S
reactant | [(E)-1-methoxy-1-propenyl]oxy(trimethyl)silane | CO/C(=C\C)/O[Si](C)(C)C | C7H16O2Si
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)-dipalladium | 0.14 mmol, 65 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.28 mmol, 155 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Methyl 2-(5-quinolyl)propanoate | N1=CC=CC2=C(C=CC=C12)C(C(=O)OC)C | C13H13NO2
